US09126950B2
A solution of ethyl 2-(4-aminophenoxy)acetate (0.801 g) and N-(3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)acrylamide (1.0 g) in 1-butanol (10 mL) was heated to 135° C. for 2 hr. The reaction was monitored on TLC using hexanes:ethyl acetate (3:7) as mobile phase. After completion of the reaction, butanol was removed under reduced pressure and water was added. The mixture was extracted with ethyl acetate and the organic layer was dried over sodium sulfate and solvent was removed under reduced pressure. Crude material was purified by Combiflash chromatography and eluted with 29% ethyl acetate in hexane to give 0.30 g of ethyl 2-(4-((4-((3-acrylamidophenyl)amino)-5-fluoropyrimidin-2-yl)amino)phenoxy)acetate.

reactant | ethyl 2-(4-aminophenoxy)acetate | 0.801 g | NC1=CC=C(OCC(=O)OCC)C=C1 | C10H13NO3
reactant | N-(3-((2-chloro-5-fluoropyrimidin-4-yl)amino)phenyl)acrylamide | 1.0 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(C=C)=O)F | C13H10ClFN4O
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
product | ethyl 2-(4-((4-((3-acrylamidophenyl)amino)-5-fluoropyrimidin-2-yl)amino)phenoxy)acetate | 0.30 g | C(C=C)(=O)NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(OCC(=O)OCC)C=C1 | C23H22FN5O4
